US09376429B2
Preparation of 3-fluoro-4-(hydroxy(2-phenylpyridin-3-yl)methyl)-N-(thiazol-2-yl)benzenesulfonamide
100 mg (0.26 mmol) of tert-butyl((3,4-difluorophenyl)sulfonyl)(thiazol-2-yl)carbamate was dissolved in 5 mL of tetrahydrofuran under nitrogen gas, and cooled to −78° C. After adding 0.25 mL (0.39 mmol) of n-butyllithium (1.6 M in tetrahydrofuran) slowly, the mixture was stirred for 30 minutes as maintaining −78° C. 24.3 mg (0.13 mmol) of 2-phenylnicotinaldehyde was dissolved in 0.5 mL of tetrahydrofuran, and added to the above reacting solution. As warming from −78° C. to room temperature, the reacting solution was stirred for 24 hours. Ethyl acetate and water/1 N-hydrochloride were added to the reacting solution, and it was stirred. After separating layers, the organic layer only was collected and concentrated under reduced pressure. The obtained residue was separated by column chromatography (developing solvent, hexane:ethyl acetate=1:1) to obtain 9 mg (7.6% yield) of the title compound.

reactant | tert-butyl((3,4-difluorophenyl)sulfonyl)(thiazol-2-yl)carbamate | 0.26 mmol, 100 mg | C(C)(C)(C)OC(N(C=1SC=CN1)S(=O)(=O)C1=CC(=C(C=C1)F)F)=O | C14H14F2N2O4S2
reactant | n-butyllithium | 0.39 mmol, 1.6 M, 0.25 mL | C(CCC)[Li]
reactant | 2-phenylnicotinaldehyde | 0.13 mmol, 24.3 mg | C1(=CC=CC=C1)C1=C(C=O)C=CC=N1 | C12H9NO
reactant | hydrochloride | Cl | ClH
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5 mL | O1CCCC1 | C4H8O
solvent | water | 1 N | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-fluoro-4-(hydroxy(2-phenylpyridin-3-yl)methyl)-N-(thiazol-2-yl)benzenesulfonamide | 9 mg, 7.6% yield | FC=1C=C(C=CC1C(C=1C(=NC=CC1)C1=CC=CC=C1)O)S(=O)(=O)NC=1SC=CN1 | C21H16FN3O3S2
